US05866576
A solution of 1-(3-Butenyl)-3,7-dimethylxanthine (5.8 g, 24.8 mmol), 4-methylmorpholine-N-oxide (3.63 g, 31 mmol) and potassium osmate dihydrate (18.3 mg; 0.05 mmol) in acetone (40 mL) and water (10 mL) was stirred for 6 hours. A solution of 20% aqueous sodium sulphite (20 ml) was added and stirred for 30 minutes. The reaction mixture was extracted with 25% ethanol/dichloromethane (4×250 mL). The combined organic extracts were dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The crude product obtained was further purified by flash chromatography over silica gel using an acetone eluant to yield 4.5 g (67.7% yield) 1-(3,4,-dihydroxybutyl)-3,7-dimethylxanthine (inventive compound no. 2509).

reactant | 1-(3-Butenyl)-3,7-dimethylxanthine | 24.8 mmol, 5.8 g | C(CC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C11H14N4O2
reactant | 4-methylmorpholine-N-oxide | 31 mmol, 3.63 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium sulphite | 20 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | 1-(3,4,-dihydroxybutyl)-3,7-dimethylxanthine | 4.5 g, 67.7% yield | OC(CCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C11H16N4O4
